2151-09-24 08:03:00 Physician Resident Progress Note
Chief Complaint: 79 yom with h/o SDH, dementia, CAD presenting with
   fever to 104, cough, hypoxia and concern for PNA vs. Aspiration
   24 Hour Events:
   - KUB performed:
   - CVP to 9 from [**10-11**] at midnight - treated with fluids only, off
   pressors
   - Bronchoscopy performed, Axillary arterial line placed and lost,
   Central line placed
   - + stools, guiac possitive but likely from Fe based medications
   Allergies:
   Dilantin (Oral) (Phenytoin Sodium Extended)
   Rash; transamin
   Last dose of Antibiotics:
   Vancomycin - [**2151-9-24**] 12:15 AM
   Meropenem - [**2151-9-24**] 04:00 AM
   Infusions:
   Fentanyl (Concentrate) - 50 mcg/hour
   Midazolam (Versed) - 1 mg/hour
   Other ICU medications:
   Lansoprazole (Prevacid) - [**2151-9-23**] 08:00 AM
   Heparin Sodium (Prophylaxis) - [**2151-9-23**] 11:59 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2151-9-24**] 07:35 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.8
C (98.2
   Tcurrent: 36.4
C (97.5
   HR: 86 (74 - 101) bpm
   BP: 97/64(72) {76/29(44) - 122/89(93)} mmHg
   RR: 16 (16 - 21) insp/min
   SpO2: 100%
   Heart rhythm: AF (Atrial Fibrillation)
    CVP: 10 (7 - 20)mmHg
   Total In:
                                                                 12,617 mL
                                                                  1,490 mL
   PO:
   TF:
   IVF:
                                                                  9,527 mL
                                                                  1,490 mL
   Blood products:
   Total out:
                                                                    381 mL
                                                                    110 mL
   Urine:
                                                                    331 mL
                                                                    110 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 12,236 mL
                                                                  1,380 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 501 (501 - 501) mL
   RR (Set): 16
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI Deferred: No Spon Resp
   PIP: 27 cmH2O
   Plateau: 20 cmH2O
   SpO2: 100%
   ABG: 7.33/32/154/18/-7
   Ve: 8.7 L/min
   PaO2 / FiO2: 385
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   130 K/uL
   10.3 g/dL
   86 mg/dL
   0.8 mg/dL
   18 mEq/L
   3.6 mEq/L
   15 mg/dL
   117 mEq/L
   141 mEq/L
   31.1 %
   12.1 K/uL
        [image002.jpg]
                             [**2151-9-23**]  04:13 AM
                             [**2151-9-23**]  07:44 AM
                             [**2151-9-23**]  12:38 PM
                             [**2151-9-23**]  01:10 PM
                             [**2151-9-23**]  04:10 PM
                             [**2151-9-24**]  03:25 AM
   WBC
   14.1
   12.1
   Hct
   35.7
   31.1
   Plt
   178
   130
   Cr
   0.9
   0.8
   0.8
   TCO2
   23
   20
   18
   Glucose
   63
   86
   Other labs: PT / PTT / INR:12.8/33.0/1.1, Differential-Neuts:90.4 %,
   Band:11.0 %, Lymph:6.5 %, Mono:2.7 %, Eos:0.2 %, Lactic Acid:1.2
   mmol/L, Ca++:6.5 mg/dL, Mg++:2.3 mg/dL, PO4:2.4 mg/dL
   Microbiology:
   - BAL [**9-23**]
 OP flora
   - sputum [**9-23**]
 OP flora
   - blood 9/24
 pending
   - urine [**9-23**]
 pending
   - Legionella
 negative
   Imaging:
   - ABX [**9-23**]
 no evidence of obstruction
   - CXR [**9-23**]
 chronic LLL collapse c/w images from
   Assessment and Plan
   Assessment and Plan
   A/P: 79 yom with CAD, DMII, past h/o SDH s/p craniotomy and Klebsiella
   VAP [**4-7**] who presents with cough, fever, altered mental status,
   vomiting, found to have a likely pneumonia on CXR.
   # Respiratory failure: initially presenting with hypoxia and
   hypercarbia with history of suspected aspiration event 4 days PTA.
   - wean sedation and attempt PSV
   - continue vancomycin and meropenum for concern of aspiration pneumonia
   Vanco/Meropenem
   - f/u repeat CXR
   # Septic shock:  patient in 90
s after substantial fluid boluses but
   off pressors, poor UOP around 15 cc/hr in setting of initial high
   fever, dyspnea and suspected aspiration event making lung source most
   likely.  Initial UA was equivacol.
   - continue antibiotics pending culture results and follow CXR given
   suspicion for aspiration pneumonia
   - continue fluid boluses to support MAP > 65 and UOP > 30 cc/hr
   - f/u urine and blood Cx
   # Pneumonia - Health care associated and history is strongly suggestive
   of an aspiration, and so will need to cover broadly.
   - f/u ABX for concern of obstruction given high tube feed residuals
   negative
   - continue broad spectrum antibiotics as discussed above
   - f/u sputum culture
   - attempt to wean sedation
   # Oliguria: continue decreased UOP in setting of possible sepsis with
   stable Cr
   - continue fluid support to promote to UOP
   - consider addition of pressor to promote increased forward flow
   .
   # Diabetes mellitus - relative hypoglycemia this morning to 60s.
   - continue frequent finger sticks for glucose monitoring
   # FEN: IVF boluses with NS, NPO.
   # Code: Full, discussed with family
   # Access:R subclavian, PIV 18g x 2. Place A-line
   # PPX: GI: Lansoprazole
   # Dispo: ICU care
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   18 Gauge - [**2151-9-23**] 03:00 AM
   Multi Lumen - [**2151-9-23**] 05:30 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2151-09-25 08:13:00 Physician Resident Progress Note
Chief Complaint: Pt is a 79yoM with hx of SDH and dementia, CAD s/p
   CABG, who presents with fever to 104, cough and hypoxia. He had a
   prolonged hospital course [**4-8**] at while pt he underwent craniotomy for
   subdural hematoma and developed Klebsiella PNA s/p trach and PEG. He
   has been in rehab since and now wheelchair bound wiht poor functional
   status on/off tubefeeds. According to family, he received a feeding
   early Sunday morning and was found approx one hr later flat in bed with
   tubefeed material in his mouth. Since that time he had a cough and
   gargling breathing. He had overall fatigue and was essentially confined
   to bed, talking less, eating very little. On the evening prior to
   admission he spiked a fever to 103.8 and was noted to be hypoxic and in
   more respiratory distress.
   24 Hour Events:
   -blood Cx with GPC in clusters
   -called to patient bedside at 15:51 for concern of increased
   "twitching" since decr. sedation, patient somewhat more arousable with
   marked tremor of upper extremities with any movement, did not appear
   like seizure, coming out of sedation
   -lasix challenge to mobilize fluids off lungs - 200 cc/hr outs
   Allergies:
   Dilantin (Oral) (Phenytoin Sodium Extended)
   Rash; transamin
   Last dose of Antibiotics:
   Vancomycin - [**2151-9-25**] 12:00 AM
   Meropenem - [**2151-9-25**] 04:00 AM
   Infusions:
   Other ICU medications:
   Furosemide (Lasix) - [**2151-9-24**] 03:15 PM
   Heparin Sodium (Prophylaxis) - [**2151-9-25**] 12:00 AM
   Midazolam (Versed) - [**2151-9-25**] 12:30 AM
   Fentanyl - [**2151-9-25**] 12:30 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2151-9-25**] 07:57 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.8
C (100
   Tcurrent: 36.9
C (98.4
   HR: 100 (86 - 112) bpm
   BP: 141/78(94) {101/49(62) - 165/135(143)} mmHg
   RR: 16 (14 - 23) insp/min
   SpO2: 100%
   Heart rhythm: AF (Atrial Fibrillation)
   Height: 71 Inch
    CVP: 12 (6 - 18)mmHg
   Total In:
                                                                  2,693 mL
                                                                    786 mL
   PO:
   TF:
                                                                     30 mL
                                                                    128 mL
   IVF:
                                                                  2,503 mL
                                                                    458 mL
   Blood products:
   Total out:
                                                                  1,815 mL
                                                                    440 mL
   Urine:
                                                                  1,815 mL
                                                                    440 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    878 mL
                                                                    346 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 252 (252 - 581) mL
   PS : 15 cmH2O
   RR (Spontaneous): 21
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 76
   PIP: 21 cmH2O
   SpO2: 100%
   ABG: ///18/
   Ve: 7.7 L/min
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   159 K/uL
   10.6 g/dL
   172 mg/dL
   1.0 mg/dL
   18 mEq/L
   3.9 mEq/L
   19 mg/dL
   115 mEq/L
   141 mEq/L
   31.1 %
   12.9 K/uL
        [image002.jpg]
                             [**2151-9-23**]  04:13 AM
                             [**2151-9-23**]  07:44 AM
                             [**2151-9-23**]  12:38 PM
                             [**2151-9-23**]  01:10 PM
                             [**2151-9-23**]  04:10 PM
                             [**2151-9-24**]  03:25 AM
                             [**2151-9-24**]  03:25 PM
                             [**2151-9-25**]  03:32 AM
   WBC
   14.1
   12.1
   12.9
   Hct
   35.7
   31.1
   31.1
   Plt
   178
   130
   159
   Cr
   0.9
   0.8
   0.8
   0.9
   1.0
   TCO2
   23
   20
   18
   Glucose
   63
   86
   172
   Other labs: PT / PTT / INR:11.6/31.6/1.0, Differential-Neuts:90.4 %,
   Band:11.0 %, Lymph:6.5 %, Mono:2.7 %, Eos:0.2 %, Lactic Acid:1.2
   mmol/L, Ca++:7.1 mg/dL, Mg++:2.1 mg/dL, PO4:2.4 mg/dL
   Microbiology
   - sputum [**9-25**]
 oral flora, culture pending
   - BAL [**9-24**]
 oral flora, culture pending
   - blood 9/25
 GPC in clusters (?)
   - sputum [**9-23**]
 GNR sparse growth
   - urine [**9-23**]
 pending
   - legionella - negative
   Imaging
   - worsening of LLL collapse with small bilateral effusions
   Assessment and Plan
   Assessment and Plan
   A/P: 79 yom with CAD, DM-II, recent SDH s/p craniotomy and Klebsiella
   VAP [**4-7**] on trach presenting with concern for aspiration pneumonia
   # Respiratory failure: patient placed on PSV yesterday and sedation
   weaned.  CXR without obvious infiltrate but clear fluid overload.
   - continue vancomycin and meropenum for concern of aspiration pneumonia
   and blood Cx with GPC
   - continue lasix for goal diuresis of 1L
   - continue to wean sedation and consider SBT for extubation depending
   on mental status
   # Septic shock:: patient off pressors and normotensive
   - continue antibiotics pending culture results and follow CXR given
   suspicion for aspiration pneumonia and GPC blood
   # Pneumonia - Health care associated and history is strongly suggestive
   of an aspiration, and so will need to cover broadly.
   - f/u ABX for concern of obstruction given high tube feed residuals
   negative
   - continue broad spectrum antibiotics as discussed above pending
   culture results
 may represent more of a chemical pneumonitis than
   aspiration pneumonia
   - f/u sputum culture
   # Oliguria: continue decreased UOP in setting of possible sepsis with
   stable Cr
   - continue lasix challenge to promote diuresis
 output near 200 cc/hr
   after initial challenge
   .
   # FEN: tube feeds, IVF PRN, electrolyte repletion
   # Code: Full, discussed with family
   # Access:R subclavian, PIV 18g x 2. Place A-line
   # PPX: GI: Lansoprazole
   # Dispo: ICU care
   ICU Care
   Nutrition:
   Boost Glucose Control (Full) - [**2151-9-24**] 09:00 PM 20 mL/hour
   Glycemic Control:
   Lines:
   18 Gauge - [**2151-9-23**] 03:00 AM
   Multi Lumen - [**2151-9-23**] 05:30 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2151-09-25 11:28:00 Physician Attending Progress Note
TITLE:
   Chief Complaint: respiratory failure, shock
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
 SPUTUM CULTURE - At [**2151-9-25**] 03:43 AM
   PSV weaned.  Remains off pressors.
   Allergies:
   Dilantin (Oral) (Phenytoin Sodium Extended)
   Rash; transamin
   Last dose of Antibiotics:
   Vancomycin - [**2151-9-25**] 12:00 AM
   Meropenem - [**2151-9-25**] 10:06 AM
   Infusions:
   Other ICU medications:
   Furosemide (Lasix) - [**2151-9-24**] 03:15 PM
   Heparin Sodium (Prophylaxis) - [**2151-9-25**] 12:00 AM
   Midazolam (Versed) - [**2151-9-25**] 12:30 AM
   Fentanyl - [**2151-9-25**] 12:30 AM
   Other medications:
   SQH, levophed, vanco, PPI, CHG, meropenem, bisacodyl, electrolyte
   sliding scales, bolus sedation prn
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2151-9-25**] 11:22 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.8
C (100
   Tcurrent: 37
C (98.6
   HR: 106 (92 - 112) bpm
   BP: 129/73(88) {110/57(72) - 165/135(143)} mmHg
   RR: 22 (14 - 23) insp/min
   SpO2: 98%
   Heart rhythm: AF (Atrial Fibrillation)
   Height: 71 Inch
   CVP: 10 (6 - 21)mmHg
   Total In:
                                                                  2,693 mL
                                                                  1,113 mL
   PO:
   TF:
                                                                     30 mL
                                                                    192 mL
   IVF:
                                                                  2,503 mL
                                                                    721 mL
   Blood products:
   Total out:
                                                                  1,815 mL
                                                                    760 mL
   Urine:
                                                                  1,815 mL
                                                                    760 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    878 mL
                                                                    353 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 505 (252 - 581) mL
   PS : 12 cmH2O
   RR (Spontaneous): 21
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 76
   PIP: 18 cmH2O
   SpO2: 98%
   ABG: ///18/
   Ve: 11.7 L/min
   Physical Examination
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Distant), (Murmur: Systolic)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present)
   Respiratory / Chest: (Breath Sounds: Clear : anteriorly)
   Extremities: Right lower extremity edema: Trace, Left lower extremity
   edema: Trace
   Musculoskeletal: Unable to stand
   Skin:  Warm
   Neurologic: Responds to: Noxious stimuli, Movement: No spontaneous
   movement, Tone: Normal
   Labs / Radiology
   10.6 g/dL
   159 K/uL
   172 mg/dL
   1.0 mg/dL
   18 mEq/L
   3.9 mEq/L
   19 mg/dL
   115 mEq/L
   141 mEq/L
   31.1 %
   12.9 K/uL
        [image002.jpg]
                             [**2151-9-23**]  04:13 AM
                             [**2151-9-23**]  07:44 AM
                             [**2151-9-23**]  12:38 PM
                             [**2151-9-23**]  01:10 PM
                             [**2151-9-23**]  04:10 PM
                             [**2151-9-24**]  03:25 AM
                             [**2151-9-24**]  03:25 PM
                             [**2151-9-25**]  03:32 AM
   WBC
   14.1
   12.1
   12.9
   Hct
   35.7
   31.1
   31.1
   Plt
   178
   130
   159
   Cr
   0.9
   0.8
   0.8
   0.9
   1.0
   TCO2
   23
   20
   18
   Glucose
   63
   86
   172
   Other labs: PT / PTT / INR:11.6/31.6/1.0, Differential-Neuts:90.4 %,
   Band:11.0 %, Lymph:6.5 %, Mono:2.7 %, Eos:0.2 %, Lactic Acid:1.2
   mmol/L, Ca++:7.1 mg/dL, Mg++:2.1 mg/dL, PO4:2.4 mg/dL
   Imaging: CXR:
   Microbiology: BCx: one set [**9-22**] with GPCs
   Sputum: GNRs spec. pending
   Assessment and Plan
   79-year-old man with respiratory failure (presumptively secondary to
   aspiration vs. HCAP) and shock (presumptively septic, now improved).
   Remains sedated off sedatives since about midnight but exam is
   nonfocal.  We will plan to diurese (about -1000), perform a spontaneous
   breathing trial (doing well so far), and hold sedation.  We will
   continue present ABX while awaiting speciation of cultures.   Other
   issues as per ICU team note today.  Overall has improved somewhat but
   still critically ill.  Discussed in detail with son on [**Name2 (NI) 2585**].
   ICU Care
   Nutrition:
   Boost Glucose Control (Full) - [**2151-9-24**] 09:00 PM 20 mL/hour
   Glycemic Control:
   Lines:
   18 Gauge - [**2151-9-23**] 03:00 AM
   Multi Lumen - [**2151-9-23**] 05:30 AM
   Prophylaxis:
   DVT: Boots, SQ UF Heparin
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication: Patient discussed on interdisciplinary [**Year (4 digits) 2585**]  Comments:
   Code status: Full code
   Disposition :
   Total time spent: 40 min
   Patient is critically ill

2151-09-26 06:52:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   -goal for 1L negative. gave 20mg IV lasix x 2
   -major barrier to extubation seems to be sedation. stopping TF's if
   wakes up more and attempting to do SBT
   -RSBI: 91, sedated, lots of secretions; will try SBT today
   Allergies:
   Dilantin (Oral) (Phenytoin Sodium Extended)
   Rash; transamin
   Last dose of Antibiotics:
   Meropenem - [**2151-9-25**] 10:20 PM
   Vancomycin - [**2151-9-26**] 04:09 AM
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2151-9-26**] 12:00 AM
   Furosemide (Lasix) - [**2151-9-26**] 02:50 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2151-9-26**] 06:50 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.3
C (99.2
   Tcurrent: 37.2
C (98.9
   HR: 103 (95 - 119) bpm
   BP: 142/79(90) {104/56(68) - 161/113(124)} mmHg
   RR: 19 (16 - 26) insp/min
   SpO2: 99%
   Heart rhythm: AF (Atrial Fibrillation)
   Wgt (current): 88.5 kg (admission): 83.7 kg
   Height: 71 Inch
    CVP: 5 (5 - 21)mmHg
   Total In:
                                                                  2,340 mL
                                                                    707 mL
   PO:
   TF:
                                                                    600 mL
                                                                     62 mL
   IVF:
                                                                  1,380 mL
                                                                    545 mL
   Blood products:
   Total out:
                                                                  2,690 mL
                                                                    745 mL
   Urine:
                                                                  2,690 mL
                                                                    745 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -350 mL
                                                                    -38 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 501 (500 - 501) mL
   Vt (Spontaneous): 352 (352 - 505) mL
   PS : 0 cmH2O
   RR (Set): 16
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 91
   PIP: 18 cmH2O
   Plateau: 16 cmH2O
   SpO2: 99%
   ABG: ///19/
   Ve: 9.9 L/min
   Physical Examination
   gen: intubated
   cv: rrr
   resp: cta anteriorly
   abd: soft, nt
   ext: pitting edema
   Labs / Radiology
   214 K/uL
   10.6 g/dL
   234 mg/dL
   1.1 mg/dL
   19 mEq/L
   3.7 mEq/L
   27 mg/dL
   111 mEq/L
   141 mEq/L
   32.7 %
   12.7 K/uL
        [image002.jpg]
                             [**2151-9-23**]  04:13 AM
                             [**2151-9-23**]  07:44 AM
                             [**2151-9-23**]  12:38 PM
                             [**2151-9-23**]  01:10 PM
                             [**2151-9-23**]  04:10 PM
                             [**2151-9-24**]  03:25 AM
                             [**2151-9-24**]  03:25 PM
                             [**2151-9-25**]  03:32 AM
                             [**2151-9-25**]  05:32 PM
                             [**2151-9-26**]  03:44 AM
   WBC
   14.1
   12.1
   12.9
   12.7
   Hct
   35.7
   31.1
   31.1
   32.7
   Plt
   178
   130
   159
   214
   Cr
   0.9
   0.8
   0.8
   0.9
   1.0
   1.0
   1.1
   TCO2
   23
   20
   18
   Glucose
   63
   86
   172
   315
   234
   Other labs: PT / PTT / INR:11.6/31.6/1.0, Differential-Neuts:90.4 %,
   Band:11.0 %, Lymph:6.5 %, Mono:2.7 %, Eos:0.2 %, Lactic Acid:1.2
   mmol/L, Ca++:8.2 mg/dL, Mg++:2.0 mg/dL, PO4:2.1 mg/dL
   Microbiology:    RESPIRATORY CULTURE (Final [**2151-9-25**]):
         MODERATE GROWTH Commensal Respiratory Flora.
         GRAM NEGATIVE ROD(S).    SPARSE GROWTH.
         YEAST.    MODERATE GROWTH.
   Coag neg staph from one bottle of blood cultures from admission
   Assessment and Plan
 .H/O DIABETES MELLITUS (DM), TYPE II
 ALTERED MENTAL STATUS (NOT DELIRIUM)
 SHOCK, SEPTIC
 PNEUMONIA, ASPIRATION
   79 yoM with CAD, DM-II, recent SDH s/p craniotomy and Klebsiella VAP
   (while trached) presenting with concern for aspiration pneumonia
   # Respiratory failure: patient placed on PSV yesterday and sedation
   weaned.  CXR without obvious infiltrate but clear fluid overload.
   - currently on vancomycin and meropenem for concern of aspiration
   pneumonia, could narrow to just [**Last Name (un) 614**] as only pos culture data is GNRs
   from sputum (and coag neg staph from blood x1 bottle)
   - continue lasix for goal of negative 1L
   - continue to wean sedation and consider SBT for extubation depending
   on mental status
   # Septic shock/pneumonia: patient off pressors and normotensive, Health
   care associated and history is strongly suggestive of an aspiration,
   and so will need to cover broadly.
   - continue antibiotics currently day [**5-9**]
   -follow CXR given clinical suspicion for aspiration pneumonia
   -fu cultures
   #altered mental status: sedation off and pt difficult to arouse. Per
   nsg, this waxes and wanes.
   -ct head to r/o acute intracranial process
   -continue no sedation
   # Oliguria:
   - continue lasix boluses to promote diuresis, TBB goal neg 1L will
   continue to bolus
   .
   # FEN: hold tube feeds for now for possible extubation, limit IVF PRN,
   electrolyte repletion via SS
   # Code: Full, discussed with family
   # Access:R subclavian, PIV 18g x 2. Place A-line
   # PPX: GI: Lansoprazole, heparin sc
   # Dispo: ICU care
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   18 Gauge - [**2151-9-23**] 03:00 AM
   Multi Lumen - [**2151-9-23**] 05:30 AM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2151-09-27 16:48:00 Physician Resident Progress Note
Chief Complaint: .
   24 Hour Events:
   -CT head reassuring (got head CT as somnolent on exam this am)
   -TBB neg 2.5L at midnight.
   -started low dose metop tartrate for afib in 110s c plenty of bp room.
   Allergies:
   Dilantin (Oral) (Phenytoin Sodium Extended)
   Rash; transamin
   Last dose of Antibiotics:
   Vancomycin - [**2151-9-26**] 12:00 AM
   Meropenem - [**2151-9-26**] 10:10 PM
   Infusions:
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2151-9-27**] 08:00 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.7
C (99.9
   Tcurrent: 37.7
C (99.9
   HR: 94 (87 - 124) bpm
   BP: 157/71(95) {101/62(69) - 171/135(141)} mmHg
   RR: 14 (14 - 25) insp/min
   SpO2: 100%
   Heart rhythm: AF (Atrial Fibrillation)
   Wgt (current): 88.5 kg (admission): 83.7 kg
   Height: 71 Inch
    CVP: 1 (0 - 78)mmHg
   Total In:
                                                                  1,192 mL
                                                                    108 mL
   PO:
   TF:
                                                                     62 mL
   IVF:
                                                                  1,030 mL
                                                                    108 mL
   Blood products:
   Total out:
                                                                  3,570 mL
                                                                    320 mL
   Urine:
                                                                  3,570 mL
                                                                    320 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -2,378 mL
                                                                   -212 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 501 (500 - 501) mL
   Vt (Spontaneous): 303 (303 - 303) mL
   PS : 5 cmH2O
   RR (Set): 12
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 50%
   RSBI: 55
   PIP: 20 cmH2O
   Plateau: 15 cmH2O
   Compliance: 50.1 cmH2O/mL
   SpO2: 100%
   ABG: ///21/
   Ve: 7 L/min
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   220 K/uL
   10.7 g/dL
   229 mg/dL
   1.0 mg/dL
   21 mEq/L
   3.9 mEq/L
   24 mg/dL
   110 mEq/L
   141 mEq/L
   32.4 %
   11.1 K/uL
        [image002.jpg]
                             [**2151-9-23**]  01:10 PM
                             [**2151-9-23**]  04:10 PM
                             [**2151-9-24**]  03:25 AM
                             [**2151-9-24**]  03:25 PM
                             [**2151-9-25**]  03:32 AM
                             [**2151-9-25**]  05:32 PM
                             [**2151-9-26**]  03:44 AM
                             [**2151-9-26**]  07:45 AM
                             [**2151-9-26**]  03:11 PM
                             [**2151-9-27**]  04:00 AM
   WBC
   12.1
   12.9
   12.7
   11.1
   Hct
   31.1
   31.1
   32.7
   32.4
   Plt
   130
   159
   214
   220
   Cr
   0.8
   0.8
   0.9
   1.0
   1.0
   1.1
   1.0
   1.0
   TCO2
   18
   21
   Glucose
   86
   172
   315
   234
   229
   Other labs: PT / PTT / INR:11.6/31.6/1.0, Differential-Neuts:90.4 %,
   Band:11.0 %, Lymph:6.5 %, Mono:2.7 %, Eos:0.2 %, Lactic Acid:1.2
   mmol/L, Ca++:8.3 mg/dL, Mg++:1.8 mg/dL, PO4:2.4 mg/dL
   Microbiology: Gram stain and respiratory culture from [**9-25**]:
   SPARSE GROWTH Commensal Respiratory Flora.
         YEAST.    MODERATE GROWTH.
         GRAM NEGATIVE ROD(S).    SPARSE GROWTH.
   .
   Assessment and Plan
   79 yoM with CAD, DM-II, recent SDH s/p craniotomy and Klebsiella VAP
   (while trached) presenting with concern for aspiration pneumonia
   # Respiratory failure: patient placed on PSV yesterday and sedation
   weaned.  CXR without obvious infiltrate but clear fluid overload.
   - currently on vancomycin and meropenem for concern of aspiration
   pneumonia, (growing GNRs from sputum and coag neg staph from blood x1
   bottle)
   - continue lasix for goal of 1.5 L tomorrow
   - continue to wean sedation and consider SBT for extubation depending
   on mental status
   # Septic shock/pneumonia: patient off pressors and normotensive, Health
   care associated and history is strongly suggestive of an aspiration,
   and so will need to cover broadly.
   - continue antibiotics currently day [**6-6**]; continue for 1 more day
   -follow CXR given clinical suspicion for aspiration pneumonia
   -fu cultures
   #altered mental status: sedation off and pt difficult to arouse. Per
   nsg, this waxes and wanes.
   -ct head to r/o acute intracranial process
   -continue no sedation
   # Oliguria:
   - continue lasix boluses to promote diuresis, TBB goal neg 1.5 L
   .
   # FEN: hold tube feeds for now for possible extubation, limit IVF PRN,
   electrolyte repletion via SS
   # Code: Full, discussed with family
   # Access:R subclavian, PIV 18g x 2. Place A-line
   # PPX: GI: Lansoprazole, heparin sc
   # Dispo: ICU care
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   18 Gauge - [**2151-9-23**] 03:00 AM
   Multi Lumen - [**2151-9-23**] 05:30 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2151-09-28 07:58:00 Physician Resident Progress Note
Chief Complaint: Pt is a 79yoM with hx of subdural hematoma and
   dementia, CAD s/p CABG, who initially presented with fever to 104,
   cough and hypoxia and being treated for sepsis/HAP.
   24 Hour Events:
   -Spotaneous breathing trial: TV 308 / RR 19 / I:E 1:6.5 / SpO2 100%;
   - Was on assist all night; currently on 8 of pressure support and 5 of
   PEEP
   -Lasix 20 mg IV bolus with goal of(-)1.5 L, initially put out 20 cc/hr,
   given second 20 mg IV bolus with substantial urine output; over last 24
   is -1.6 :
   -overnight was a little agitated, was climbing out of bed; was started
   on light Propofol drip at 5cc/hr for light sedation
   Allergies:
   Dilantin (Oral) (Phenytoin Sodium Extended)
   Rash; transamin
   Last dose of Antibiotics:
   Vancomycin - [**2151-9-26**] 12:00 AM
   Meropenem - [**2151-9-28**] 04:15 AM
   Infusions:
   Propofol - 10 mcg/Kg/min
   Other ICU medications:
   Furosemide (Lasix) - [**2151-9-27**] 08:39 PM
   Heparin Sodium (Prophylaxis) - [**2151-9-28**] 01:00 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2151-9-28**] 07:56 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.3
C (99.1
   Tcurrent: 37.2
C (99
   HR: 93 (93 - 108) bpm
   BP: 121/91(98) {105/58(71) - 176/131(135)} mmHg
   RR: 17 (11 - 22) insp/min
   SpO2: 100%
   Heart rhythm: AF (Atrial Fibrillation)
   Wgt (current): 82.4 kg (admission): 83.7 kg
   Height: 71 Inch
    CVP: 10 (-4 - 10)mmHg
   Total In:
                                                                    819 mL
                                                                    340 mL
   PO:
   TF:
   IVF:
                                                                    819 mL
                                                                    340 mL
   Blood products:
   Total out:
                                                                  2,430 mL
                                                                    895 mL
   Urine:
                                                                  2,430 mL
                                                                    895 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -1,611 mL
                                                                   -555 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 500 (500 - 501) mL
   Vt (Spontaneous): 443 (443 - 443) mL
   PS : 5 cmH2O
   RR (Set): 12
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 50%
   RSBI: 38
   PIP: 14 cmH2O
   SpO2: 100%
   ABG: ///25/
   Ve: 8.3 L/min
   Physical Examination
   Neuro:  Opens eyes on command, can squeeze fingers, can wiggle toes on
   command
   Card:  irregular rhythm no murmurs
   Lungs:  lungs clear to auscultation
   Abd:  nontender and nondistended +BS
   EXT: warm, 1+ pulses, no lower extremity edema
   Labs / Radiology
   250 K/uL
   10.5 g/dL
   192 mg/dL
   1.0 mg/dL
   25 mEq/L
   3.4 mEq/L
   23 mg/dL
   110 mEq/L
   143 mEq/L
   31.3 %
   10.9 K/uL
        [image002.jpg]
                             [**2151-9-24**]  03:25 AM
                             [**2151-9-24**]  03:25 PM
                             [**2151-9-25**]  03:32 AM
                             [**2151-9-25**]  05:32 PM
                             [**2151-9-26**]  03:44 AM
                             [**2151-9-26**]  07:45 AM
                             [**2151-9-26**]  03:11 PM
                             [**2151-9-27**]  04:00 AM
                             [**2151-9-27**]  09:04 PM
                             [**2151-9-28**]  04:42 AM
   WBC
   12.1
   12.9
   12.7
   11.1
   10.9
   Hct
   31.1
   31.1
   32.7
   32.4
   31.3
   Plt
   130
   159
   214
   220
   250
   Cr
   0.8
   0.9
   1.0
   1.0
   1.1
   1.0
   1.0
   1.0
   1.0
   TCO2
   21
   Glucose
   86
   172
   315
   234
   [**Telephone/Fax (3) 10372**]
   Other labs: PT / PTT / INR:11.8/26.2/1.0, Differential-Neuts:90.4 %,
   Band:11.0 %, Lymph:6.5 %, Mono:2.7 %, Eos:0.2 %, Lactic Acid:1.2
   mmol/L, Ca++:8.5 mg/dL, Mg++:2.2 mg/dL, PO4:2.0 mg/dL
   Imaging:
   [**9-28**]: CXR pending
   [**9-26**] CXR: Persistent layering left pleural effusion and adjacent
   opacity in left lower lung which may reflect atelectasis or
   infectious consolidation.
   [**9-26**] head CT: no acute pathology
   Microbiology: Sputum cxs from [**9-23**] and [**9-25**]:  Sparse gram - rods;
   Assessment and Plan
   79 yoM with CAD, DM-II, recent SDH s/p craniotomy and Klebsiella VAP
   (while trached) presenting with concern for aspiration pneumonia
   # Respiratory failure: patient was on assist control over night, on PS
   this AM with PS of 8 and PEEP of 5.   Currently is somewhat responsive
   to commands.
   -had spontaneous breathing trial yesterday with: TV 308 / RR 19 / I:E
   1:6.5 / SpO2 100%;
   -decrease pressure support, stop sedation, attempt to extubate
   -continue lasix gtt for goal of 1.5 L today
   -continue meropenem (growing GNRs from sputum and coag neg staph from
   blood x1 bottle)
   # Septic shock/pneumonia: patient off pressors and normotensive, Health
   care associated and history is strongly suggestive of an aspiration but
   sputum growing only gram - rods
   - continue meropenem (day [**7-6**])
   - vanc was d/c on [**9-26**]
   -CXR pending
   -fu cultures
   #altered mental status:
   -is responsive to commands; squeezes fingers when asked, can wiggle
   toes;  somewhat agitated o/n and was restarted on light propofol for
   this
   -stop sedation for attempts at weaning
   .
   # FEN: limited IVF PRN given fluid overload, electrolyte repletion via
   SS
   # Code: Full, discussed with family
   # Access:R subclavian, PIV 18g x 2. Place A-line
   # PPX: GI: Lansoprazole, heparin sc
   # Dispo: ICU care
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Multi Lumen - [**2151-9-23**] 05:30 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2151-09-29 07:28:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   - patient successfully extubated, now on face mask and tolerating well
   - tube feeds restarted
   - got 1 dose of IV lasix 40 mg; diuresing and was -1.5 L by evening
   - meropenem was discontinued after course for VAP complete
   - repeat sputum gram stain and culture pending
   Allergies:
   Dilantin (Oral) (Phenytoin Sodium Extended)
   Rash; transamin
   Last dose of Antibiotics:
   Meropenem - [**2151-9-28**] 10:05 AM
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2151-9-29**] 12:00 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2151-9-29**] 07:14 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.2
C (98.9
   Tcurrent: 37.2
C (98.9
   HR: 94 (85 - 111) bpm
   BP: 136/72(89) {108/53(69) - 148/109(114)} mmHg
   RR: 20 (17 - 25) insp/min
   SpO2: 100%
   Heart rhythm: AF (Atrial Fibrillation)
   Wgt (current): 82.4 kg (admission): 83.7 kg
   Height: 71 Inch
    CVP: 3 (2 - 11)mmHg
   Total In:
                                                                    621 mL
                                                                     72 mL
   PO:
   TF:
   IVF:
                                                                    621 mL
                                                                     72 mL
   Blood products:
   Total out:
                                                                  2,275 mL
                                                                    520 mL
   Urine:
                                                                  2,275 mL
                                                                    520 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -1,654 mL
                                                                   -448 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   Ventilator mode: Standby
   Vt (Spontaneous): 572 (370 - 572) mL
   PS : 5 cmH2O
   RR (Spontaneous): 18
   PEEP: 5 cmH2O
   FiO2: 50%
   PIP: 11 cmH2O
   SpO2: 100%
   ABG: ///27/
   Ve: 6.1 L/min
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   230 K/uL
   9.5 g/dL
   200 mg/dL
   0.9 mg/dL
   27 mEq/L
   3.5 mEq/L
   22 mg/dL
   110 mEq/L
   145 mEq/L
   28.1 %
   7.7 K/uL
        [image002.jpg]
                             [**2151-9-25**]  03:32 AM
                             [**2151-9-25**]  05:32 PM
                             [**2151-9-26**]  03:44 AM
                             [**2151-9-26**]  07:45 AM
                             [**2151-9-26**]  03:11 PM
                             [**2151-9-27**]  04:00 AM
                             [**2151-9-27**]  09:04 PM
                             [**2151-9-28**]  04:42 AM
                             [**2151-9-28**]  02:46 PM
                             [**2151-9-29**]  02:20 AM
   WBC
   12.9
   12.7
   11.1
   10.9
   7.7
   Hct
   31.1
   32.7
   32.4
   31.3
   28.1
   Plt
   159
   214
   220
   250
   230
   Cr
   1.0
   1.0
   1.1
   1.0
   1.0
   1.0
   1.0
   1.1
   0.9
   TCO2
   21
   Glucose
   172
   315
   234
   [**Telephone/Fax (2) 10394**]00
   Other labs: PT / PTT / INR:12.5/30.2/1.1, Differential-Neuts:90.4 %,
   Band:11.0 %, Lymph:6.5 %, Mono:2.7 %, Eos:0.2 %, Lactic Acid:1.2
   mmol/L, Ca++:8.0 mg/dL, Mg++:1.8 mg/dL, PO4:2.5 mg/dL
   New Microbiology
   - sputum [**9-28**]
 gram stain 1+ yeast
   Old Microbiology
   - sputum [**9-23**] + [**9-25**] -  moderate growth yeast, sparse growth GNR
   Imaging
   - CXR [**9-28**]
 moderate left pleural effusion persists, consolidation in
   left mid and lower lung zones, greater mediastinal shift towards left
   suggesting atelectasis in LLL, clear right lung, no PTX and normal ET
   tube placement
   Assessment and Plan
   79 yoM with CAD, DM-II, recent SDH s/p craniotomy and Klebsiella VAP
   (while trached) presenting with concern for aspiration pneumonia
   # Respiratory failure: patient now extubated on face mask with adequate
   saturations
   - follow up ABG this am-
   - continue lasix gtt for goal of 1.5 L today
 remains positive 6.6 L
   for LOS but trending down
   - f/u sputum culture and daily CXR
   # Septic shock/pneumonia: patient off pressors and normotensive, Health
   care associated and history is strongly suggestive of an aspiration and
   sputum with minimal growth of GNR
 meropenum discontinued after
   completing 7 day course, now awaiting f/u sputum cultures.
   - f/u sputum cultures
   - f/u daily CXR
   #Altered mental status: patient much more responsive and alert than
   prior days
 prior issues with sedation likely resulting from poor
   metabolism and clearance.
   .
   # FEN: limited IVF PRN given fluid overload, electrolyte repletion via
   SS
   # Code: Full, discussed with family
   # Access:R subclavian, PIV 18g x 2. Place A-line
   # PPX: Lansoprazole, heparin sc
   # Dispo: consider transfer to floor
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Multi Lumen - [**2151-9-23**] 05:30 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition: